US05053508
C. 5-[4-[4-(6-chloro-2-pyrazinyl)-1-piperazinyl]butyl]tetrahydro-1H-thieno[3',4':3,4]cyclobuta[1,2-c]pyrrole-4,6(3H,5H)-dione 2,2 dioxide, hydrochloride
A solution of 2.0 g of 5-(4-bromobutyl)tetrahydro-1H-thieno-[3',4':3,4]cyclobuta[1,2-c]pyrrole-4,6(3H,5H)dione 2,2-dioxide in 50 ml of dimethylformamide is added to a stirred solution 2.0 g (0.007 mol) of 1-(6-chloro-2-pyrazinyl)-piperazine hydrochloride and 4 ml of triethylamine. The reaction mixture is stirred overnight and the solvent is removed under vacuum. The residue is partitioned between water and methlene chloride. The methylene chloride extracts are combined, washed with brine and dried over anhydrous sodium sulfate. Filtration and roto-evaporation gives the crude free base. Preparative HPLC [silica gel; ethyl acetate:methylene chloride (9:1)] followed by evaporation of the appropriate fractions (TLC Rf=0.4), treatment with ethanolic hydrogen chloride and recrystallization from ethanol gives the title compound: m.p. 154°-157° C.

reactant | 5-(4-bromobutyl)tetrahydro-1H-thieno-[3',4':3,4]cyclobuta[1,2-c]pyrrole-4,6(3H,5H)dione 2,2-dioxide | 2.0 g | BrCCCCN1C(C2C(C1=O)C1C2CS(C1)(=O)=O)=O | C12H16BrNO4S
reactant | 1-(6-chloro-2-pyrazinyl)-piperazine hydrochloride | 0.007 mol, 2.0 g | Cl.ClC1=CN=CC(=N1)N1CCNCC1
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-[4-[4-(6-chloro-2-pyrazinyl)-1-piperazinyl]butyl]tetrahydro-1H-thieno[3',4':3,4]cyclobuta[1,2-c]pyrrole-4,6(3H,5H)-dione 2,2 dioxide, hydrochloride | Cl.ClC1=CN=CC(=N1)N1CCN(CC1)CCCCN1C(C2C(C1=O)C1C2CS(C1)(=O)=O)=O | InChI=1S/C20H26ClN5O4S.ClH/c21-15-9-22-10-16(23-15)25-7-5-24(6-8-25)3-1-2-4-26-19(27)17-13-11-31(29,30)12-14(13)18(17)20(26)28;/h9-10,13-14,17-18H,1-8,11-12H2;1H
